US04216148
A 5.7 g. portion of 2-amino-N-(4-ethoxy-3-thienyl)-5-fluorobenzamide and 60 g. of polyphosphoric acid are stirred and heated at 120°-128° C. for one hour, cooled and poured into ice and water. The solid is recovered by filtration, washed with water, sodium carbonate solution, sodium bicarbonate solution and then water and dried at 60° C. overnight, giving 7-fluoro-4H-thieno[3,4-b][1,4]benzodiazepin-9(10H)-one.

reactant | 2-amino-N-(4-ethoxy-3-thienyl)-5-fluorobenzamide | NC1=C(C(=O)NC2=CSC=C2OCC)C=C(C=C1)F | C13H13FN2O2S
solvent | water | O | H2O
product | 7-fluoro-4H-thieno[3,4-b][1,4]benzodiazepin-9(10H)-one | FC=1C=CC2=C(C(NC=3C(N2)=CSC3)=O)C1 | C11H7FN2OS
